US07781478B2
Methyl 4-(3-cyano-1-ethyl-5-methoxy-1H-indol-2-yl)-benzoate (350 mg, 1.05 mmol), prepared as described in Example 1Ga step B, is combined with NaOH (40 mg, 1 mmol), H2O (0.8 mL), and THF (3.4 mL) and is heated at 80° C. for 1 hour. The reaction mixture is diluted in H2O and is then ether-washed. The aqueous layer is acidified with aqueous HCl, and is extracted into EtOAc. The organic layer is dried and concentrated to yield 4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-benzoic acid (311 mg, 92%) as a pure white solid.

reactant | Methyl 4-(3-cyano-1-ethyl-5-methoxy-1H-indol-2-yl)-benzoate | 1.05 mmol, 350 mg | C(#N)C1=C(N(C2=CC=C(C=C12)OC)CC)C1=CC=C(C(=O)OC)C=C1 | C20H18N2O3
reactant | NaOH | 1 mmol, 40 mg | [OH-].[Na+]
reactant | THF | 3.4 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
solvent | H2O | 0.8 mL | O | H2O
product | 4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-benzoic acid | 311 mg, 92% | C(#N)C1=C(N(C2=CC(=CC=C12)OC)CC)C1=CC=C(C(=O)O)C=C1 | C19H16N2O3
